US04021539
N-(β-2-pyridyl-ethyl)-glucamine
The product was made from D-glucose and 2-(β-aminoethyl)-pyridine comparable as in Example A. A wax-like, colorless product was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 2-(β-aminoethyl)-pyridine | NCCC1=NC=CC=C1 | C7H10N2
product | N-(β-2-pyridyl-ethyl)-glucamine | N1=C(C=CC=C1)CCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C13H22N2O5
